US07786108B2
Step 14. Preparation of (S)-tert-butyl 5-(3,5-bistrifluoromethylbenzylamino)-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add 3,5-bistrifluoromethylbenzaldehyde (909 mg, 3.75 mmol) to a solution of (S)-tert-butyl 5-amino-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (1.29 g, 3.75 mmol) in methanol (20 mL) at room temperature under nitrogen and stir for 2 h. Add sodium borohydride (283 mg, 7.5 mmol) and stir the mixture for 2 h. Remove the solvents under reduced pressure and dilute the residue with dichloromethane (50 mL) and water (50 mL). Collect the organic layer and extract the aqueous layer with dichloromethane (3×30 mL). Wash the combined organic extracts with water (20 mL) and brine (20 mL) and dry over anhydrous sodium sulfate. Filter and remove the solvents under reduced pressure to provide the title compound as an amber oil (2.09 g, 98%), which is used in the next step without purification. APCI MS m/z 570 (M+H)+.

reactant | 3,5-bistrifluoromethylbenzaldehyde | 3.75 mmol, 909 mg | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | (S)-tert-butyl 5-amino-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 3.75 mmol, 1.29 g | N[C@@H]1C2=C(N(CCC1)C(=O)OC(C)(C)C)C=C(C(=C2)C)C(F)(F)F | C17H23F3N2O2
reactant | sodium borohydride | 7.5 mmol, 283 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (S)-tert-butyl 5-(3,5-bistrifluoromethylbenzylamino)-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 2.09 g, 98% | FC(C=1C=C(CN[C@@H]2C3=C(N(CCC2)C(=O)OC(C)(C)C)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C26H27F9N2O2
